US07456164B2
4-{4-[3-(1-Oxo-thiomorpholin-4-yl)-propoxy]-phenyl}-tetra-hydropyran-4-carbonitrile
Sodium perborate tetrahydrate (221 mg, 1.43 mmol) and glacial acetic acid (5 ml) was heated to 50 to 60° C. and 4-[4-(3-Thiomorpholin-4-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile (500 mg, 1.43 mmol) was added in one portion and the heating was maintained for 3 hours. The reaction mixture was cooled to ambient temperature and filtered. The filtrate was added to ice water (15 ml) and extracted with EtOAc (3×5 ml), which was discarded. The aqueous phase was basified to pH 8-9 with 2M sodium hydroxide and extracted with DCM (3×25 ml), dried over MgSO4, filtered and concentrated in vacuo at 35° C. The crude material was subjected to chromatography on silica eluting with DCM:MeOH:NH3 (97:2:1 to 92:6:2) to provided the title compound (300 mg, 58%) as a white solid. 1H NMR (400 MHz, CDCl3), δ 7.38 (d, 2H), 6.92 (d, 2H), 4.11-4.05 (m, 2H), 4.03 (t, 2H), 3.89 (td, 2H), 3.15-3.03 (m, 2H), 2.94-2.67 (m, 6H), 2.63 (t, 2H), 2.16-1.92 (m, 6H).

reactant | Sodium perborate tetrahydrate | 1.43 mmol, 221 mg | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 4-[4-(3-Thiomorpholin-4-ylpropoxy)phenyl]tetrahydropyran-4-carbonitrile | 1.43 mmol, 500 mg | N1(CCSCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-{4-[3-(1-Oxo-thiomorpholin-4-yl)-propoxy]-phenyl}-tetra-hydropyran-4-carbonitrile | 300 mg, 58% | O=S1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O3S
